US07790793B2
Preparation of N-isopropyl-3,5-bis-(isobutyrylamino)-benzamide according to Method B
In analogy to Example II-3, the compound (ZZZx) is obtained as a slightly grey solid from 18.7 g (0.074 mol) of 3,5-dinitro-(N-isopropyl)-benzamide, 150 ml of NMP, 1.25 g of Pd/C (10% Pd) and 35.0 g (0.22 mol) of isobutyric anhydride.

reactant | 3,5-dinitro-(N-isopropyl)-benzamide | 0.074 mol, 18.7 g | [N+](=O)([O-])C=1C=C(C(=O)NC(C)C)C=C(C1)[N+](=O)[O-] | C10H11N3O5
reactant | isobutyric anhydride | 0.22 mol, 35.0 g | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
catalyst | Pd/C | 1.25 g | [Pd] | Pd
solvent | NMP | 150 ml | CN1CCCC1=O | C5H9NO
product | N-isopropyl-3,5-bis-(isobutyrylamino)-benzamide | C(C)(C)NC(C1=CC(=CC(=C1)NC(C(C)C)=O)NC(C(C)C)=O)=O | C18H27N3O3
